### ISSUE TITLE
library_search can still suggest namedPattern in certain situations.

### ISSUE THREAD

**Issue by dwrensha** [leanprover-community/mathlib4#2430]
#2302 eliminated a bunch of cases where `library_search` would return `namedPattern`, but it can still happen in some cases, e.g.
```lean
import Mathlib.Data.Nat.Interval
import Mathlib.Data.Set.Basic
import Mathlib.Tactic.LibrarySearch

theorem bar4 (A B : Set ℕ) (h : A ⊆ B) (hab : Finite ↑B) : Finite ↑A := by
  rw[Set.finite_coe_iff] at *
  exact Set.Finite.subset hab h

theorem bar5 (A B : Set ℕ) (h : A ⊆ B) (hab : Fintype ↑B) : Fintype ↑A := by
  suffices Finite ↑A by exact Fintype.ofFinite A
  apply bar4 A B h
  library_search
  -- suggestion: exact namedPattern (Finite.of_fintype ↑B) (Finite.of_fintype ↑B) rfl
  -- should be just: exact Finite.of_fintype ↑B
```
